US04933355
5-[(2E)-3-(2-Anilinothiazol-4-yl)allylidene]-rhodanine-3-acetic acid
Following a procedure similar to that described in Example 1, the desired compound was prepared from 0.4 g of (2E)-3-(2-anilinothiazol-4-yl)acrylaldehyde, 0.29 g of rhodanine-3-acetic acid, 0.22 g of ammonium chloride, 0.2 ml of 28% v/v aqueous ammonia and 10 ml of ethanol. The resulting product was a reddish-brown powder having the following physical properties.

reactant | (2E)-3-(2-anilinothiazol-4-yl)acrylaldehyde | 0.4 g | N(C1=CC=CC=C1)C=1SC=C(N1)/C=C/C=O | C12H10N2OS
reactant | rhodanine-3-acetic acid | 0.29 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.22 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[(2E)-3-(2-Anilinothiazol-4-yl)allylidene]-rhodanine-3-acetic acid | N(C1=CC=CC=C1)C=1SC=C(N1)/C=C/C=C1C(N(C(S1)=S)CC(=O)O)=O | C17H13N3O3S3
